US05888941
A solution of ethyl formylchloroacetate (1.45 g, 9.6 mmol; obtained according to Panizzi, L. Gazz. Chim.Ital., 1946, 76, 56) and 4-chlorothiobenzamide (1.76 g, 9.6 mmol) in EtOH (50 mL) was refluxed for 48 h. The reaction mixture was then cooled to -20° C. and the solid formed was filtered and dried to give ethyl 2-(4-chlorophenyl)thiazole-5-carboxylate (0.59 g, 23%): mp 144°-145° C.; 1H NMR (300 MHz, CDCl3) δ (TMS) 8.40 (s, 1H, thiazole), 7.92 (dt, Jt =1.8, Jd =8.6, 2H, arom), 7.44 (dt, Jt =1.8, Jd =8.6, 2H, arom), 4.39 (q, J=7, 2H, OCH2), 1.40 (t, J=7, 3H, OCH2CH3). Analysis calculated for C12H10ClNO2S: C 53.84; H 3.76; N 5.23; S 11.97. Found: C 54.22; H 3.52; N 5.25; S 11.46.

reactant | ethyl formylchloroacetate | 9.6 mmol, 1.45 g | C(=O)C(C(=O)OCC)Cl | C5H7ClO3
reactant | 4-chlorothiobenzamide | 9.6 mmol, 1.76 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
solvent | EtOH | 50 mL | CCO | C2H6O
product | ethyl 2-(4-chlorophenyl)thiazole-5-carboxylate | 0.59 g, 23% | ClC1=CC=C(C=C1)C=1SC(=CN1)C(=O)OCC | C12H10ClNO2S
